US08222246B2
6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
To a solution of 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.58 mmol) in THF (6 mL) was added 1-hydroxybenzotriazole hydrate (90.8 mg, 0.58 mmol), N-ethyldiisopropylamine (254 μL, 1.45 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (114 mg, 0.58 mmol) and 2-amino-2-methyl-1-propanol (53.4 mg, 0.58 mmol). The reaction mixture was stirred overnight at room temperature. Chromatography (silica, dichloromethane:methanol=0:100 to 95:5) afforded the title compound (160 mg, 66%) as a colorless oil. MS: m/e=416.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.58 mmol, 200 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13FN2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.58 mmol, 90.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 1.45 mmol, 254 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.58 mmol, 114 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-2-methyl-1-propanol | 0.58 mmol, 53.4 mg | NC(CO)(C)C | C4H11NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 160 mg, 66% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC(CO)(C)C)C=C1)CO | C21H22FN3O5
